US05550132
2-(Dimethylamino)Ethyl Hexadecanoate
This intermediate was prepared in a manner analogous to that of 2-(dimethylamino)ethyl octanoate from 2-bromoethyl hexadecanoate (0.2 g, 0.55 mmol) and 40% aqueous dimethylamine (3.5 mL, 27.5 mmol) in acetonitrile (10 mL). The resulting product was applied to a silica gel column (discontinuous gradient of chloroform/methanol 95:5, 8:2 as eluent) affording 0.13 g pure product. Yield 72%; mp 46°-48° C.; 1H NMR (CDCl3) 0.85-0.95 (t, CH3 (CH2)12), 1.20-1.40 (m, CH3 (CH2)12), 1.55-1.70 (m, CH2 CH2 CO), 2.25-2.40 (t, CH2 CH2 CO); 2.45-2.55 (s, (CH3)2 N) 2.75-2.85 (t, O CH2 CH2 N), 4.25-4.35 (t, O CH2 CH2 N).

reactant | 2-(dimethylamino)ethyl octanoate | C(CCCCCCC)(=O)OCCN(C)C | C12H25NO2
reactant | 2-bromoethyl hexadecanoate | 0.55 mmol, 0.2 g | C(CCCCCCCCCCCCCCC)(=O)OCCBr | C18H35BrO2
reactant | dimethylamine | 27.5 mmol, 3.5 mL | CNC | C2H7N
reactant | chloroform methanol | C(Cl)(Cl)Cl.CO
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 2-(Dimethylamino)Ethyl Hexadecanoate | 0.13 g, Yield 72% | C(CCCCCCCCCCCCCCC)(=O)OCCN(C)C | C20H41NO2
